US04876280
Trans-4-fluorocinnamic acid
A solution of 4 g. of sodium hydroxide in 30 ml. of water is added to a solution of 19.4 g. (0.1 mole) of ethyl trans-4-fluorocinnamate (Compound LXV) in 350 ml. of ethanol, and the reaction mixture is stirred at 70° C. for 18 hours. The solvent is evaporated at reduced pressure, and the residue is dissolved in water. The solution is washed once with methyl t-butyl ether and acidified with 6N. hydrochloric acid. The resulting precipitate is washed twice with water and dried to obtain the product (15.5 g. (93%)). An analytical sample was recrystallized from ethyl acetate, m.p. 204°-206° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethyl trans-4-fluorocinnamate | 0.1 mole | FC1=CC=C(/C=C/C(=O)OCC)C=C1 | C11H11FO2
solvent | ethanol | C(C)O | C2H6O
product | Trans-4-fluorocinnamic acid | FC1=CC=C(/C=C/C(=O)O)C=C1 | C9H7FO2
